US07741327B2
To a solution containing (S)-2-[4-(3-bromo-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester (0.260 g, 0.63 mmol) in tetrahydrofuran (8 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (0.5N, 3 mL, 1.5 mmol). The mixture was stirred at 15° C. for 3 h, and the solvents evaporated. The residue was dissolved in water and washed with diethyl ether, and the diethyl ether layer discarded. The aqueous phase was acidified with dilute hydrochloric acid (pH <2), and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated to afford (S)-2-[4-(3-bromo-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid, (0.250 g, 100%), as a yellow solid.

reactant | (S)-2-[4-(3-bromo-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester | 0.63 mmol, 0.260 g | C(C)OC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)Br)F)=O)=O | C18H21BrFNO4
reactant | lithium hydroxide monohydrate | 1.5 mmol, 0.5N, 3 mL | O.[OH-].[Li+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(3-bromo-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 0.250 g, 100% | BrC=1C(=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC1)F | C16H17BrFNO4
